### PR TITLE
feat(Analysis/ODE): Galerkin regularity for Navier-Stokes on T³

### PR DESCRIPTION
**Pull request by jcamlin**
Establishes global existence and smoothness for Galerkin approximations of incompressible Navier-Stokes on T³ with smooth divergence-free initial data.

Main result: `GalerkinLimit.smooth`

---

### CODE REVIEW

File: Mathlib/Analysis/ODE/GalerkinRegularity.lean [hunk 1]
```diff
@@ -0,0 +1,469 @@
...
+abbrev T3 := Fin 3 → UnitAddCircle
+
+/-!
+## Analysis Constants
+
+Standard constants from Moser estimates, Gronwall inequalities, and Sobolev embeddings.
+-/
+
+/-- Moser estimate constant for nonlinear term bounds -/
+axiom cMoser : ℝ → ℝ
```
Comment (grunweg) [inline Mathlib/Analysis/ODE/GalerkinRegularity.lean:50]: Mathlib has a no-axioms policy. Please don't introduce any new axioms.

File: Mathlib/Analysis/ODE/GalerkinRegularity.lean [hunk 2]
```diff
@@ -0,0 +1,469 @@
...
+    have hz : ∏ j : Fin 3, (if k j = k' j then (1 : ℂ) else 0) = 0 := by
+      apply Finset.prod_eq_zero (Finset.mem_univ i)
+      simp [hi]
+    simp [h, hz]
+
+/-!
+## Parseval Identity
+-/
+
+theorem parseval3D (f : T3 → ℂ) (hf : Continuous f) :
```
Comment (grunweg) [inline Mathlib/Analysis/ODE/GalerkinRegularity.lean:293]: Mathlib already has Parseval's identity. Please use that instead (and if you really need a version specialised to e.g. the standard basis in R^n, add it there).

**Review by grunweg — COMMENTED** [review]
Hi! It's good to hear that you want to contribute to mathlib. That said, your code raises a number of questions: did you use AI to generate it? (If so, which parts: all of it? what did you prompt it with? do you know the mathematics behind it? etc.) Please make this abundantly clear in the PR description, so we can review it properly.

Sadly, this PR shows some common weaknesses of AI-generated code (no matter how you generated it). Introducing additional axioms is a no go. Your code introduces lots of new definitions without supporting lemmas (that is not maintainable; please add basic lemmas about them when adding them).

Please address these issues; only then can we consider this PR for merging.
